US08022062B2
4-(2′-Fluorophenoxy)-benzylamine:
Add 4-(2′-fluorophenoxy)-benzonitrile (1.5 g, 7.0 mmol) and ethanol wet Raney® activated nickel (0.4 g) to a Parr pressure vessel. Immediately add a 7N solution of ammonia in methanol (170 mL) and seal the vessel. Purge the reaction vessel with nitrogen, pressurize the reaction mixture with hydrogen (3400 KPa), seal the vessel, agitate the reaction and heat to 60° C. Continue the reaction for 18 h, turn off the heat and allow the reaction mixture to cool to ambient temperature. Vent the excess hydrogen from the vessel and purge the vessel with nitrogen. Filter the reaction mixture to remove the Raney® nickel. Concentrate in vacuo and purify by chromatography on silica gel eluting with DCM/2M ammonia in methanol (9:1) to obtain the title compound (1.2 g, 79%). MS (ES+) m/z: 201 M+H−NH3)+.

reactant | 4-(2′-fluorophenoxy)-benzonitrile | 7.0 mmol, 1.5 g | FC1=C(OC2=CC=C(C#N)C=C2)C=CC=C1 | C13H8FNO
reactant | ethanol | C(C)O | C2H6O
reactant | ammonia | N | H3N
solvent | methanol | 170 mL | CO | CH4O
catalyst | nickel | 0.4 g | [Ni] | Ni
product | 4-(2′-Fluorophenoxy)-benzylamine | 1.2 g, 79% | FC1=C(OC2=CC=C(CN)C=C2)C=CC=C1 | C13H12FNO
